US07696231B2
b) Preparation of tert-butyl 2-[4-({[4-(methoxycarbonyl)benzoyl]amino}-methyl)-benzoyl]hydrazinecarboxylate (Compound B, Scheme 2)
Into a solution of 4-({[4-(methoxycarbonyl)benzoyl]amino}methyl)benzoic acid (1.0 g, 3.19 mmol) and N-methyl morpholine (420 μL, 3.83 mmol) in anhydrous THF (25 mL) at 0° C. was added isobutyl chloroformate (455 μL, 3.51 mmol) then tert-butyl hydrazine carboxylate (1.12 mg, 7.66 mmol). After stirring at 0° C. for 1 hr and overnight at rt, the reaction mixture was quenched with HCl (1N, 25 mL). Extraction with EtOAc (2×25 mL), drying over MgSO4 and evaporation under vacuo gave a residue. Purification by flash chromatography (SiO2, EtOAc) gave the title compound (773 mg, 55%) as a white powder.

reactant | 4-({[4-(methoxycarbonyl)benzoyl]amino}methyl)benzoic acid | 3.19 mmol, 1.0 g | COC(=O)C1=CC=C(C(=O)NCC2=CC=C(C(=O)O)C=C2)C=C1 | C17H15NO5
reactant | N-methyl morpholine | 3.83 mmol, 420 μL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 3.51 mmol, 455 μL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | tert-butyl hydrazine carboxylate | 7.66 mmol, 1.12 mg | N(N)C(=O)OC(C)(C)C | C5H12N2O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-[4-({[4-(methoxycarbonyl)benzoyl]amino}-methyl)-benzoyl]hydrazinecarboxylate | 773 mg, 55% | COC(=O)C1=CC=C(C(=O)NCC2=CC=C(C(=O)NNC(=O)OC(C)(C)C)C=C2)C=C1 | C22H25N3O6
